US07977344B2
6-Amino-2-[(2-methylproyl)oxy]-9-(tetrahydro-2H-pyran-4-ylmethyl)-7,9-dihydro-8H-Purin-8-one
8-Bromo-2-[(2-methylpropyl)oxy]-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purin-6-amine (100 mg) in n-butanol (2 mL) was refluxed with concentrated hydrochloric acid (2 mL) at 100° C. (external temperature) for 3 hours. The reaction mixture was evaporated under reduced pressure to dryness. To the reaction mixture was then added a small volume of water and an equivalent volume of methanol to give a suspension, which was then neutralised to by the addition of 2M sodium hydroxide (from pH ˜3 to 7). This was then evaporated under reduced pressure to give a beige solid which was purified by C18 reverse phase chromatography using water (containing 0.1% formic acid)-acetonitrile (containing 0.05% formic acid) as eluent (20-60%). This gave the title compound (13 mg) as white solid.

reactant | 8-Bromo-2-[(2-methylpropyl)oxy]-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purin-6-amine | 100 mg | BrC=1N(C2=NC(=NC(=C2N1)N)OCC(C)C)CC1CCOCC1 | C15H22BrN5O2
reactant | hydrochloric acid | 2 mL | Cl | ClH
reactant | sodium hydroxide | 2M, pH ˜3 to 7 | [OH-].[Na+]
solvent | n-butanol | 2 mL | C(CCC)O | C4H10O
product | 6-Amino-2-[(2-methylproyl)oxy]-9-(tetrahydro-2H-pyran-4-ylmethyl)-7,9-dihydro-8H-Purin-8-one | 13 mg | NC1=C2NC(N(C2=NC(=N1)OCC(C)C)CC1CCOCC1)=O | C15H23N5O3
